US06903239B2
Preparation of 5,6-difluoro-2-hydroxy-3-methylbenzaldehyde
30 g of 4,5-difluoro-2-methylphenol are dissolved in 180 ml of trifluoroacetic acid and admixed with 57.2 g of hexamethylenetetramine in portions. On completion of addition, the reaction solution is heated to 97-100° C. for 4 hours. After cooling, first 60 ml of 50% sulphuric acid and then 300 ml of water are added dropwise, then the solution is stirred further at room temperature for 2 hours. The reaction solution is extracted three times with methyl tert-butyl ether. The combined extracts are washed once with water and dried, and the solvent is distilled off under reduced pressure. The residue is extracted repeatedly with n-hexane, the extracts are combined and the solvent is distilled off under reduced pressure. 12.5 g (33% of theory) of a bright yellow solid are obtained having a melting point of 53-56° C.

reactant | 4,5-difluoro-2-methylphenol | 30 g | FC1=CC(=C(C=C1F)O)C | C7H6F2O
reactant | hexamethylenetetramine | 57.2 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | sulphuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 300 ml | O | H2O
solvent | trifluoroacetic acid | 180 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5,6-difluoro-2-hydroxy-3-methylbenzaldehyde | FC=1C=C(C(=C(C=O)C1F)O)C | C8H6F2O2
